US05364866
4-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]butyl bromide
A mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole (12 in, 55 mmol), K2CO3 (13 m) and 1,4-dibromobutane (20 m, 9.3 mmol, 1.7 eq) in acetonitrile (300 ml) was stirred at room temperature overnight. The inorganic material was filtered. The solution was concentrated to ~ 80 ml, when crystals crashed out. The product was filtered to yield 14.16 m (73%), m.p.=243°-245° C.

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole | 55 mmol | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dibromobutane | 9.3 mmol, 1.7 eq | BrCCCCBr | C4H8Br2
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 4-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]butyl bromide | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCCBr)C=C1 | C16H20BrFN2O
